US04922021
A solution of 0.2 g (0.8 mmoles) of 1-(N-ethyl-acetamido)-2(2,6-dimethylphenyl-amino)-propane, prepared as described in Example 31, in 5 ml of dry diethyl ether is added dropwise, within 10 minutes, to a vigorously stirred suspension of 0.2 g of lithium aluminium hydride in 10 ml of dry diethyl ether at room temperature. The resulting mixture is stirred at room temperature for 3 hours and then processed as described in Example 29. 0.14 g (74%) of 1-diethylamino-2-(2,6-dimethylphenyl-amino)-propane are obtained.

reactant | 1-(N-ethyl-acetamido)-2(2,6-dimethylphenyl-amino)-propane | 0.8 mmoles, 0.2 g | C(C)N(C(C)=O)CC(C)NC1=C(C=CC=C1C)C | C15H24N2O
reactant | lithium aluminium hydride | 0.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 1-diethylamino-2-(2,6-dimethylphenyl-amino)-propane | 0.14 g, 74% | C(C)N(CC(C)NC1=C(C=CC=C1C)C)CC | C15H26N2
